US07572927B2
A microsystem composed of three T-shaped micromixers (M1, M2 and M3) and two microtube reactors (R1 and R2) was used. The whole microsystem was dipped in a cooling bath (−78° C.). A solution of o-dibromobenzene (0.27 M) in THF (flow rate: 6 mL/min, 1.62 mmol/min) and a solution of n-BuLi (1.5 M) in n-hexane (flow rate: 1.2 mL/min, 1.8 mmol/min) were introduced to the first T-shaped mixer M1 (inner diameter: 250 μm) by using syringe pumps. The resulting solution was passed through the tube reactor R1 and was mixed with trimethylsilyl trifluoromethanesulfonate (Me3SiOTf) (0.65 M) in Et2O (flow rate: 3 mL/min, 1.95 mmol/min) in the second T-shaped mixer M2 (inner diameter: 500 μm). The resulting solution was passed through the tube reactor R2 and was introduced to the third T-shaped mixer M3 (inner diameter: 500 μm), where the solution was quenched with methanol (neat, flow rate=3.0 mmol/min). The residence time of the tube reactor R1 (inner diameter: 500 μm, length=50 cm) was 0.82 second. The residence time of the tube reactor R2 (inner diameter: 1,000 μm, length=100 cm) was 4.62 second. After finishing the reaction, an aliquot of the product solution was taken (15 sec) and was analyzed by GC (column, CBP1; 0.25 mm×25 m; initial oven temperature, 50° C.; rate of temperature increase, 10° C./min). As a result, 2-bromophenyltrimethylsilane (GC retention time: 15.9 min) was obtained in 69% yield. 1H NMR (400 MHz, CDCl3) δ: 0.39 (s, 9H), 7.18 (dt, J=8.0, 2.0 Hz, 1H), 7.26 (dt, J=8.0, 2.0 Hz, 1H), 7.42 (dd, J=7.6, 1.6 Hz, 1H), 7.51 (dd, J=7.6, 1.6 Hz, 1H) 13C NMR (100 MHz, CDCl3) δ: −0.4, 126.2, 130.4, 130.5, 132.6, 135.9, 141.0. HRMS (EI) m/z: calcd. for C9H13BrSi 227.9970, found 227.9967.

reactant | o-dibromobenzene | 0.27 M | BrC1=C(C=CC=C1)Br | C6H4Br2
reactant | n-BuLi | 1.5 M | [Li]CCCC
reactant | trimethylsilyl trifluoromethanesulfonate | 0.65 M | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | THF | C1CCOC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | Et2O | CCOCC | C4H10O
product | 2-bromophenyltrimethylsilane | 69% yield | BrC1=C(C=CC=C1)[Si](C)(C)C | C9H13BrSi
